US04874775
N-(4-fluorophenyl)-N-[1-(pyridin-3-yl)pentyl]methanesulfonamide
A 5.5 g. portion of 3-[1-(4-fluorophenylamino)pentyl]pyridine was dissolved in 40 ml. of dichloromethane, and to it were added 3.4 g. of potassium carbonate and 1.9 ml. of methanesulfonyl chloride. The mixture was stirred at ambient temperature overnight, and then an additional 1.9 ml. of methanesulfonyl chloride was added and the mixture was stirred for 3 days with gentle heating. It was then cooled and extracted with aqueous sodium bicarbonate solution, and then with water, and it was then dried over magnesium sulfate and evaporated under vacuum. The residue was dissolved in chloroform and was purified over silica gel, eluting with chloroform, to obtain 0.7 g. of the desired product.

reactant | 3-[1-(4-fluorophenylamino)pentyl]pyridine | FC1=CC=C(C=C1)NC(CCCC)C=1C=NC=CC1 | C16H19FN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-fluorophenyl)-N-[1-(pyridin-3-yl)pentyl]methanesulfonamide | FC1=CC=C(C=C1)N(S(=O)(=O)C)C(CCCC)C=1C=NC=CC1 | C17H21FN2O2S
